US06893792B2
(Synthesis of 2-ethyl-2-adamantyl methacrylate/3-hydroxy-1-adamantyl methacrylate/α-methacryloyloxy-γ-butyrolactone copolymer (resin AX))
2-ethyl-2-adamantyl methacrylate, 3-hydroxy-1-adamantyl acrylate and α-methacryloyloxy-γ-butyrolactone were charged in a molar ratio of 2:1:1 (20.0 g:8.9 g:6.5 g), and methyl isobutyl ketone of twice weight of the total monomer weight was added to this to prepare a solution. To this was added azobisisobutyronitrile as an initiator in an amount of 2 mol % based on the total monomer amount, and the temperature was raised to 85° C. and the mixture was stirred for about 5 hours. The reaction mass was cooled, then, poured into a large amount of heptane, to cause precipitation; this operation Was repeated three times for purification. As a result, a copolymer having a weight-average molecular weight of about 8000 was obtained in a yield of 60%. This resin is called Resin AX.

reactant | 2-ethyl-2-adamantyl methacrylate | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC | C16H24O2
reactant | 3-hydroxy-1-adamantyl acrylate | C(C=C)(=O)OC12CC3(CC(CC(C1)C3)C2)O | C13H18O3
reactant | α-methacryloyloxy-γ-butyrolactone | C(C(=C)C)(=O)OC1C(=O)OCC1 | C8H10O4
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | heptane | CCCCCCC | C7H16
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | 2-ethyl-2-adamantyl methacrylate 3-hydroxy-1-adamantyl methacrylate α-methacryloyloxy-γ-butyrolactone | yield of 60% | C(C(=C)C)(=O)OC1(C2CC3CC(CC1C3)C2)CC.C(C(=C)C)(=O)OC12CC3(CC(CC(C1)C3)C2)O.C(C(=C)C)(=O)OC1C(=O)OCC1 | InChI=1S/C16H24O2.C14H20O3.C8H10O4/c1-4-16(18-15(17)10(2)3)13-6-11-5-12(8-13)9-14(16)7-11;1-9(2)12(15)17-14-6-10-3-11(7-14)5-13(16,4-10)8-14;1-5(2)7(9)12-6-3-4-11-8(6)10/h11-14H,2,4-9H2,1,3H3;10-11,16H,1,3-8H2,2H3;6H,1,3-4H2,2H3
